2118-07-10 05:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 102.2
F - [**2118-7-9**] 09:00 PM
   Pt required 10L IVF to maintain BP.
   Patient received plts and one unit pRBC upon arrival to floor.
   Blood cx [**2118-7-9**]: Gram neg rods 2/2 bottles
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2118-7-9**] 11:44 PM
   Vancomycin - [**2118-7-10**] 12:29 AM
   Meropenem - [**2118-7-10**] 01:59 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-7-10**] 05:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 36.6
C (97.8
   HR: 113 (90 - 115) bpm
   BP: 103/64(104) {75/35(50) - 139/66(104)} mmHg
   RR: 21 (14 - 24) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
           Total In:
                                                                  6,583 mL
                                                                  3,657 mL
   PO:
                                                                    270 mL
                                                                    540 mL
   TF:
   IVF:
                                                                  4,313 mL
                                                                  2,536 mL
   Blood products:
   581 mL
   Total out:
                                                                    220 mL
                                                                  1,510 mL
   Urine:
                                                                    220 mL
                                                                  1,510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,363 mL
                                                                  2,147 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   Gen: NAD, asleep
   CV: RRR, no M/R/G
   Lungs: ant fields CTA B, nonlabored breathing, NC on 2L
   Abd: +bs, soft, ntnd
   Ext: 2+ distal pulses, warm, dry, no cyanosis or edema
   Labs / Radiology
   CXR [**2118-7-10**]: Increased infiltrates bilaterally compared to [**2118-7-9**]
   C. diff toxin [**2118-7-9**]: pending
   Urine Cx: pending
   Blood Cx: GNR 2/2 bottles
   18 K/uL
   8.6 g/dL
   119 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.0 mEq/L
   8 mg/dL
   104 mEq/L
   136 mEq/L
   23.7 %
   0.1 K/uL
        [image002.jpg]
                             [**2118-7-9**]  09:32 PM
   WBC
   0.1
   Hct
   23.7
   Plt
   18
   Cr
   0.7
   Glucose
   119
   Other labs: PT / PTT / INR:14.4/32.7/1.3, Lactic Acid:1.3 mmol/L,
   Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   60 yo woman w hx of mantle cell lymphoma s/p ICE on [**6-29**] here with
   febrile neutropenia and hypotension.
   # Febrile neutropenia:  s/p R-ICE rituxan, ifosfamide, carboplatin and
   etoposide.  Likely neutropenic from chemo.  ID source not clear.
   Denies meningismal signs, denies resp complaints, only has minimal
   loose stools, no new rashes.  Will have to treat broadly to cover
   pseudomonas and MRSA given hypotension.
   - restart cefepime 2gm IV q8 (d/c meropenem) for pseudomonas
   - continue vanco 1gm IV q12 for mrsa until clinical improvement
   - add flagyl if loose stool or cdiff pos
   - had received neulasta last week; give Neupogen 300 per BMT recs
   - reassuring that lactate remains <2.
   - goal MAP>65.  Has three PIVs and responding well to fluid.
   Aggressive IVF given overnight.  Hold on central access for now.
   # Hypotension: [**2-5**] sepsis; responds well to fluids (given 10L last
   night). Currently stable.  Can hold fluid boluses for now.
   # pulmonary edema: limit fluid boluses today.  Continue to monitor UOP.
   Hold lasix for now. Repeat CXR for now.  Use NC at 2 L as needed to
   maintain SpO2 > 93%
   # Mantle cell lymphoma: s/p ICE (as above).  Will continue allopurinol
   for now.  Monitor counts as follows:
   - platelets: increased to 23.  Give 1 bag platelet with tylenol and
   benadryl if falls below 30.
   - hct: goal is >25.  currently 28.8. continue to monitor
   - WBC: low as above.
   - apprec onc recs: start neupogen 300 today
   - acyclovir for hx zoster
   # FEN: neutropenic diet.  Aggressive lytes repletion
   # Proph: boots (no PPI).  monitor sugars; hold on HISS for now.
   Can decrease bowel regimen d/t increased stools.
   D/c foley catheter
   Can increase activity as tolerated.
   .
   # Contact: HCP husband [**Name (NI) 3478**] [**Telephone/Fax (1) 3479**] (h)
   # code: full, discussed
   # Access: 2 18s and 1 20.  adequate for now.
   # Dispo: ICU; reevaluate tomorrow.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2118-7-9**] 09:14 PM
   18 Gauge - [**2118-7-9**] 11:26 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2118-07-11 07:28:00 Physician Resident Progress Note
Chief Complaint: febrile neutropenia.
   24 Hour Events:
   -Patient had N/V and diarrhea throughout day yesterday
   - FEVER - 101.8
F - [**2118-7-11**] 12:00 AM
   -Recieved 1 unit of FFP per onc rec
   -nursing mentioned concern re: vaginal/labial uclerations.
   -lost [**2-6**] PIVs & attempted central line with attending for 1.5 hrs.
   -Card consult - did not think having an ACS; perhaps a demand r/t
   ischemia from  -- given stress of febrile neutropenia.  EKG changes and
   Trop, CK and MB increase.
   - Patient had 2 runs of VTach.  One lasting for 19 beats.
   -SOB with O2 requirement that came down nicely with lasix.  --
   diuresing well.
   SUBJECTIVE:
   Patient feels well this morning.  She denies having diarrhea
   overnight.  She is taking POs this morning.  She denies
   fevers/chills/N/V/SOB/CP.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2118-7-10**] 08:30 AM
   Cefipime - [**2118-7-10**] 10:30 AM
   Acyclovir - [**2118-7-11**] 12:15 AM
   Meropenem - [**2118-7-11**] 12:50 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-7-11**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 38
C (100.4
   HR: 105 (93 - 112) bpm
   BP: 78/35(47) {65/35(47) - 133/86(96)} mmHg
   RR: 23 (17 - 30) insp/min
   SpO2: 97%   RA
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
             Total In:
                                                                  6,087 mL
                                                                    173 mL
   PO:
                                                                  1,800 mL
             TF:
   IVF:
                                                                  3,428 mL
                                                                    173 mL
   Blood products:
                                                                    859 mL
   Total out:
                                                                  5,050 mL
                                                                    300 mL
   Urine:
                                                                  3,875 mL
                                                                    300 mL
   NG:
                                                                    650 mL
   Stool:
                                                                    525 mL
   Drains:
   Balance:
                                                                  1,037 mL
                                                                   -127 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%  RA
   ABG: 7.44/28/98.[**Numeric Identifier 248**]/17/-3
   Physical Examination
   Gen: sitting up in bed, eating, pleasant, NAD.
   Neck: no obvious hematoma or ecchymosis  in area where right IJ was
   attempted.
   Lungs: bilat crackles at the bases
   CV: RRR, S1 & S2 nl, No M/R/G
   Abd: +bs, NT, Nd, no masses
   Ext: decreased LE edema bilat.
   Labs / Radiology
   6 mg/dL
   133 mEq/L
   3.2 mEq/L
   17 mEq/L
   0.5 mg/dL
   122 mg/dL
   108 mEq/L
   28.8 %
   23 K/uL
   10.5 g/dL
   0.1 K/uL
       [**7-10**] [image002.jpg]
                             [**2118-7-9**]  09:32 PM
                             [**2118-7-10**]  08:30 AM
                             [**2118-7-10**]  06:30 PM
                             [**2118-7-10**]  06:38 PM
   WBC
   0.1
   Hct
   23.7
   28.8
   Plt
   18
   23
   Cr
   0.7
   0.5
   TropT
   0.10
   0.23
   TCO2
   20
   Glucose
   119
   122
   Other labs: PT / PTT / INR:15.4/35.2/1.4, CK / CKMB /
   Troponin-T:113/8/0.23, Lactic Acid:1.5 mmol/L, Ca++:7.3 mg/dL, Mg++:2.5
   mg/dL, PO4:1.3 mg/dL
   Imaging: CXR
 shows trachea shift consistent with possible hematoma at
   site of IJ
   increased basilar lung markings bilat
   no PTX
   Microbiology: blood cx x 2 with GNR
   Urine cx neg
   Blood cx pending
   C diff assay neg.
   ECG:  question of new Q waves and T w inversion in septal leads V1-V3
   Assessment and Plan
   60 yo woman w hx of mantle cell lymphoma s/p ICE on [**6-29**] here with
   febrile neutropenia and hypotension.
   .
   # Febrile neutropenia:  s/p R-ICE rituxan, ifosfamide, carboplatin and
   etoposide.  Likely neutropenic from chemo.  ID source likely from gut
   translocation as blood cultures growing GNR.   Will have to treat
   broadly to cover pseudomonas and MRSA given hypotension.
   - meropenem for pseudomonas
   - continue vanco 1gm IV q12  until clinical improvement
   - add flagyl if loose stool or cdiff pos
   - follow up re: culture.
   - had received neulasta last week; give Neupogen 300 per BMT recs
 fup
   re: need for further neupogen
   .
   # Hypotension: tolerate lower BPs as long as the patient is looking
   well, perfusing tissues well, follow urine output.
   # pulmonary edema: limit fluid boluses today.  Continue to monitor UOP.
    Hold lasix for now.  Repeat CXR for now.  Use NC at 2 L as needed to
   maintain SpO2 > 93%
   .
   # VTACH: Follow up re: Cards team recs.  Check echo today.  Unclear
   cause of VTach.
   .
   # Card enzyme leak : per cards not felt likely to be r/t to ACS due to
   patient
s clinical picture.   Likely demand r/t very mild ischemia.
   .
   # Mantle cell lymphoma: s/p ICE (as above).  Will continue allopurinol
   for now.  Monitor counts as follows:
   - platelets: increased to 23.  Give 1 bag platelet with tylenol and
   benadryl if falls below 30.
   - hct: goal is >25.  currently 28.8. continue to monitor
   - WBC: low as above
   - apprec onc recs: start neupogen 300 today
   - acyclovir for hx zoster
   .
   # FEN: neutropenic diet.  Aggressive lytes repletion
   .
   # Proph: boots (no PPI).  monitor sugars; hold on HISS for now.
   -Holding bowel regimen d/t increased stools.
   -D/c foley catheter
 per patient preference.
   -Can increase activity as tolerated.
   .
   # Contact: HCP husband [**Name (NI) 3478**] [**Telephone/Fax (1) 3479**] (h)
   .
   # code: full, discussed
   .
   # Access: 1 20 PIV.  Obtain PICC under IR guidance.
   .
   # Dispo: possible transfer to floor after PICC placement and ECHO if
   patient continues to be stable.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2118-7-9**] 09:14 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2118-07-12 06:35:00 Physician Resident Progress Note
Chief Complaint: Neutropenic Fever
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2118-7-11**] 02:03 PM
 PICC LINE - START [**2118-7-11**] 03:30 PM
 FEVER - 102.7
F - [**2118-7-11**] 11:00 PM
   Heme/Onc recommended screening for adrenal insufficiency: cortisol test
   3am: 20
   Pt had a
coughing spell
 last night causing tachycardia and low oxygen
   saturation requiring metoprolol and oxygen mask on 4L.
   Pt is found to have cellulitis/abscess of L labia with a central
   lesion.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2118-7-10**] 10:30 AM
   Acyclovir - [**2118-7-11**] 12:15 AM
   Vancomycin - [**2118-7-11**] 09:00 PM
   Meropenem - [**2118-7-12**] 12:32 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-7-12**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.7
   Tcurrent: 36.6
C (97.9
   HR: 100 (95 - 142) bpm
   BP: 98/71(77) {79/46(38) - 144/113(117)} mmHg
   RR: 23 (14 - 36) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 64.1 kg (admission): 63.8 kg
   Height: 62 Inch
             Total In:
                                                                  3,376 mL
                                                                    492 mL
   PO:
                                                                  1,760 mL
                                                                    150 mL
   TF:
   IVF:
                                                                  1,616 mL
                                                                    342 mL
   Blood products:
   Total out:
                                                                  2,000 mL
                                                                  1,825 mL
   Urine:
                                                                  1,600 mL
                                                                  1,825 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                  1,376 mL
                                                                 -1,333 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///27/
   Physical Examination
   Gen: NAD, awake, alert
   CV: RRR, No M/R/G
   Lungs: nonlabored breathing, NC 2L,
   Abd: +bs, soft, ntnd
   L labia: red, warm, 4 cm enduration, 1-2 cm lesion in center of
   enduration
   Ext: warm, dry,  2+ radial pulses, 1 + pedal pulses
   Labs / Radiology
   42 K/uL
   9.0 g/dL
   112 mg/dL
   0.5 mg/dL
   27 mEq/L
   3.5 mEq/L
   7 mg/dL
   105 mEq/L
   139 mEq/L
   25.5 %
   0.3 K/uL
        [image002.jpg]
                             [**2118-7-9**]  09:32 PM
                             [**2118-7-10**]  08:30 AM
                             [**2118-7-10**]  06:30 PM
                             [**2118-7-10**]  06:38 PM
                             [**2118-7-11**]  10:31 AM
                             [**2118-7-11**]  06:22 PM
                             [**2118-7-12**]  12:10 AM
                             [**2118-7-12**]  03:54 AM
   WBC
   0.1
   0.2
   0.2
   0.3
   Hct
   23.7
   28.8
   25.7
   27.1
   25.5
   Plt
   18
   23
   52
   42
   42
   Cr
   0.7
   0.5
   0.5
   0.5
   0.5
   TropT
   0.10
   0.23
   0.10
   TCO2
   20
   Glucose
   119
   122
   165
   130
   112
   Other labs: PT / PTT / INR:13.4/30.0/1.1, CK / CKMB /
   Troponin-T:79/5/0.10, Differential-Neuts:35.0 %, Band:0.0 %, Lymph:35.0
   %, Mono:26.0 %, Eos:4.0 %, Lactic Acid:1.5 mmol/L, Ca++:8.1 mg/dL,
   Mg++:1.6 mg/dL, PO4:2.7 mg/dL
   Imaging: ECHO [**2118-7-11**]: regional LV systolic dysfunction. Mild mitral
   regurgitation. Small pericardial effusion without echo evidence of
   tamponade.
   Compared with the prior study (images reviewed) of [**2118-3-9**], the wall
   motion abnomalities are new. The pericardial effusion is slightly
   larger. The other findings are similar.
   Microbiology: [**2118-7-11**] C. diff toxin: negative
   [**2118-7-11**] Urine cx: no growth
   [**2118-7-9**] Blood cx (prelim): P. Aeruginosa
   Assessment and Plan
   60 yo woman w hx of mantle cell lymphoma s/p ICE on [**6-29**] here with
   febrile neutropenia and hypotension.
   # Febrile neutropenia:  s/p R-ICE rituxan, ifosfamide, carboplatin and
   etoposide.  Likely neutropenic from chemo.  ID source possibly gut
   translocation as blood cultures growing P. aeruginosa or possibly newly
   recognized labial cellulitis/abscess.   Will have to treat broadly to
   cover pseudomonas and MRSA given presentation with severe hypotension.
   - Blood culture: Pseudomonas aeruginosa pan sensitive
   - continue meropenem 1g q8h IV
   - continue vanco 1gm IV q12
   - C. diff toxin [**2118-7-11**]: negative
   - had received neulasta last week; continue Neupogen 300 SC daily if
   WBC < 1000 per BMT recs
   - tylenol prn pain of fever
   # L Labial Abscess/cellulitis:
   - U/S to evaluate for fluid collection.  If positive fluid collection
   consult OB/GYN for drainage.
   - mark border and watch for spread
   - continue vancomycin and meropenem
   # Hypotension: tolerate lower BPs as long as the patient is looking
   well, perfusing tissues well, follow urine output.
   # pulmonary edema: limit fluid boluses today.  Continue to monitor
   UOP.  Pt responded well to lasix 10mg IV last night.  Repeat dose today
   to maintain UOP. [**Hospital1 **] electrolytes; Use NC at 2 L as needed to maintain
   SpO2 > 93%
   # VTACH [**2118-7-10**]: Unclear cause of VTach.
   Cards:Pt likely that patient had MI between [**3-12**] and now.  Believe VT
   is likely secondary to AMI or more likely toxic metabolic factors. Can
   start Atorvastatin 40-80mg now.  Recommend starting low dose ACEI and
   Carvedilol when BP permits.  Start asa when plt counts >[**Numeric Identifier **].
   Consider low dose diuretic (spironolactone). Carefully monitor
   potassium as inpatient.  Set up outpatient cardiac follow up. Consider
   scheduling myocardial stress perfusion imaging in the next 2-3 months.
   .
   # Card enzyme leak : per cards not felt likely to be r/t to ACS due to
   patient
s clinical picture.   Likely demand r/t very mild ischemia.
   .
   # Mantle cell lymphoma: s/p ICE (as above).  Will continue allopurinol
   for now.  Monitor counts as follows:
   - platelets: increased to 42.  Give 1 bag platelet with tylenol and
   benadryl if falls below 30.
   - hct: goal is >25.  currently 28.8. continue to monitor
   - WBC: low as above
   - apprec onc recs: cont neupogen 300 if WBC < 1000
   - acyclovir for hx zoster
   .
   # FEN: neutropenic diet.  Aggressive lytes repletion
   # Proph: boots (no PPI).  monitor sugars; hold on HISS for now.
   -Holding bowel regimen d/t increased stools.
   -Can increase activity as tolerated.
   .
   # Contact: HCP husband [**Name (NI) 3478**] [**Telephone/Fax (1) 3479**] (h)
   .
   # code: full, discussed
   .
   # Access: 1 20 PIV.  Obtain PICC under IR guidance.
   .
   # Dispo: possible transfer to floor after PICC placement and ECHO if
   patient continues to be stable.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2118-7-11**] 03:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2118-07-14 06:36:00 Physician Resident Progress Note
Chief Complaint: Neutropenic fever, bacteremia, and labial cellulitis
   24 Hour Events:
   OB/GYN consult [**2118-7-13**]: physical exam not suggestive of cellulitis,
   continue antibiotic tx
   Low grade fevers overnight.
   Platelets dropped to 23; platelets given this morning.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2118-7-12**] 08:30 AM
   Cefipime - [**2118-7-12**] 12:12 PM
   Vancomycin - [**2118-7-13**] 08:38 PM
   Meropenem - [**2118-7-13**] 11:11 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-7-14**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.6
C (99.6
   HR: 107 (100 - 128) bpm
   BP: 87/51(58) {82/51(58) - 136/85(101)} mmHg
   RR: 22 (18 - 30) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 64.7 kg (admission): 63.8 kg
   Height: 62 Inch
           Total In:
                                                                  3,931 mL
                                                                    878 mL
   PO:
                                                                  1,640 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  2,091 mL
                                                                    624 mL
   Blood products:
                                                                    200 mL
                                                                     14 mL
   Total out:
                                                                  3,325 mL
                                                                    950 mL
   Urine:
                                                                  2,925 mL
                                                                    950 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                    606 mL
                                                                    -67 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///24/
   Physical Examination
   Gen: NAD, awake, alert
   CV: RRR, no M/R/G
   Lungs:  CTA, nonlabored breathing
   Abd: +bs, soft, tenderness in LLQ, nondistended
   Ext: warm, 2+ distal pulses
   L labial: cellulitis appears to approving, enduration persists, lesion
   is stable, no complaint of pain.
   Labs / Radiology
   [**2118-7-13**] C.diff toxin: neg x 3
   [**2118-7-9**] Urine cx: NG
   [**2118-7-9**] Blood cx: Pseudomonas aeruginosa pansensitive
   [**2118-7-13**] CMV: pending
   23 K/uL
   8.6 g/dL
   106 mg/dL
   0.3 mg/dL
   24 mEq/L
   3.5 mEq/L
   4 mg/dL
   104 mEq/L
   138 mEq/L
   24.1 %
   0.4 K/uL
        [image002.jpg]
                             [**2118-7-10**]  06:38 PM
                             [**2118-7-11**]  10:31 AM
                             [**2118-7-11**]  06:22 PM
                             [**2118-7-12**]  12:10 AM
                             [**2118-7-12**]  03:54 AM
                             [**2118-7-12**]  05:06 PM
                             [**2118-7-12**]  10:10 PM
                             [**2118-7-13**]  05:22 AM
                             [**2118-7-13**]  06:29 PM
                             [**2118-7-14**]  03:52 AM
   WBC
   0.2
   0.2
   0.3
   0.2
   0.3
   0.4
   Hct
   25.7
   27.1
   25.5
   26.3
   25.7
   24.1
   Plt
   52
   42
   42
   15
   41
   29
   23
   Cr
   0.5
   0.5
   0.5
   0.4
   0.5
   0.4
   0.4
   0.3
   TropT
   0.10
   TCO2
   20
   Glucose
   165
   130
   112
   189
   104
   125
   106
   Other labs: PT / PTT / INR:13.4/30.0/1.1, CK / CKMB /
   Troponin-T:79/5/0.10, Differential-Neuts:35.0 %, Band:0.0 %, Lymph:35.0
   %, Mono:26.0 %, Eos:4.0 %, Lactic Acid:1.5 mmol/L, Ca++:7.6 mg/dL,
   Mg++:1.9 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   60 yo woman w hx of mantle cell lymphoma s/p ICE on [**6-29**] here with
   febrile neutropenia and hypotension.
   # Febrile neutropenia:  s/p R-ICE rituxan, ifosfamide, carboplatin and
   etoposide.  Likely neutropenic from chemo.  ID source possibly gut
   translocation as blood cultures growing P. aeruginosa or possibly
   labial cellulitis/abscess.   Will have to treat broadly to cover
   pseudomonas and MRSA given presentation with severe hypotension.
   - Blood culture: Pseudomonas aeruginosa pan sensitive
   - continue meropenem 1g q8h IV
   - continue vanco 1gm IV q12
   - C. diff toxin [**2118-7-11**]: negative
   - had received neulasta last week; continue Neupogen 300 SC daily if
   WBC < 1000 per BMT recs
   - tylenol prn pain of fever
   .
   # L Labial Abscess/cellulitis:
   -  very mild improvement (erythema on borders resolving)
   - U/S ([**2118-7-11**]) no fluid collection. Without fluid collection there
s no
   indication to I &D lesion.
   - Gyn/Onc: did not feel she had signs of fasciitis, no procedures
   waranteed at this time, continue Abx
   - mark border and watch for spread
   - continue vancomycin and meropenem
   .
   # Hypotension: tolerate lower BPs as long as the patient is looking
   well, perfusing tissues well, follow urine output. Continue to hold
   antihypertensive medications.
   .
   # pulmonary edema: much improved; limit fluid boluses today.  Continue
   to monitor UOP.  Pt responds well to lasix 10mg IV restart if pulmonary
   symptoms return.  Use NC at 2 L as needed to maintain SpO2 > 93%
   .
   #Cardiac Ischemia/VTACH: Pt likely that patient had MI between [**3-12**] and
   now unclear if r/t to ACS vs demand ischemia/infarct.  Believe VT is
   likely secondary to AMI or more likely toxic metabolic factors. Can
   start Atorvastatin 40-80mg now.  Recommend starting low dose ACEI and
   Carvedilol when BP permits.  Start asa when plt counts >[**Numeric Identifier **].
   Consider low dose diuretic (spironolactone). Carefully monitor
   potassium as inpatient.  Set up outpatient cardiac follow up. Consider
   scheduling myocardial stress perfusion imaging as an impatient.
   -Patient has been tachy in the setting of recent ischemia.  Continue
   metoprolol 12.5mg po TID.
   .
   # Mantle cell lymphoma: s/p ICE (as above).  Will continue allopurinol
   for now.  Monitor counts as follows:
   - platelets: increased to 42.  Give 1 bag platelet with tylenol and
   benadryl if falls below 30
   - hct: goal is >25.  currently 24. transfuse 1 unit pRBC.
   - WBC: low as above
   - apprec onc recs: cont neupogen 300 if WBC < 1000
   - acyclovir for hx zoster
   -CMV viral load ordered to further evaluated diarrhea.
   .
   # FEN: neutropenic diet.  Aggressive lytes repletion
   # Anxiety
 start home dose of lorazepam.
   # Proph: boots (no PPI).  monitor sugars; hold on HISS for now.
   -Holding bowel regimen d/t increased stools.
   -Can increase activity as tolerated.
   .
   # Contact: HCP husband [**Name (NI) 3478**] [**Telephone/Fax (1) 3479**] (h)
   # code: full, discussed
   # Access: 1 20 PIV.  Obtain PICC under IR guidance.
   # Dispo: possible transfer to floor after PICC placement and ECHO if
   patient continues to be stable.
   - continue vanco 1gm IV q12
   - C. diff toxin [**2118-7-11**]: negative
   - had received neulasta last week; continue Neupogen 300 SC daily if
   WBC < 1000 per BMT recs
   - tylenol prn pain of fever
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2118-7-11**] 03:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2118-07-14 10:26:00 Physician Attending Progress Note
Chief Complaint: Fever, neutropenia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Continues to improve. Denies SOB
   24 Hour Events:
   Seen by Gyn
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2118-7-12**] 08:30 AM
   Cefipime - [**2118-7-12**] 12:12 PM
   Meropenem - [**2118-7-14**] 08:02 AM
   Vancomycin - [**2118-7-14**] 08:03 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Genitourinary: Labial edema/ erythema
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2118-7-14**] 10:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.6
C (99.7
   HR: 108 (107 - 128) bpm
   BP: 110/67(71) {82/51(58) - 136/85(101)} mmHg
   RR: 16 (16 - 30) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 64.7 kg (admission): 63.8 kg
   Height: 62 Inch
           Total In:
                                                                  3,931 mL
                                                                  2,131 mL
   PO:
                                                                  1,640 mL
                                                                    840 mL
   TF:
   IVF:
                                                                  2,091 mL
                                                                  1,012 mL
   Blood products:
                                                                    200 mL
                                                                    279 mL
   Total out:
                                                                  3,325 mL
                                                                  2,150 mL
   Urine:
                                                                  2,925 mL
                                                                  2,150 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                    606 mL
                                                                    -19 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), persistent tachycardia
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: at bases)
   Abdominal: Soft, Non-tender, Labial erythema stable to diminished
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   23 K/uL
   106 mg/dL
   0.3 mg/dL
   24 mEq/L
   3.5 mEq/L
   4 mg/dL
   104 mEq/L
   138 mEq/L
   24.1 %
   0.4 K/uL
        [image002.jpg]
                             [**2118-7-10**]  06:38 PM
                             [**2118-7-11**]  10:31 AM
                             [**2118-7-11**]  06:22 PM
                             [**2118-7-12**]  12:10 AM
                             [**2118-7-12**]  03:54 AM
                             [**2118-7-12**]  05:06 PM
                             [**2118-7-12**]  10:10 PM
                             [**2118-7-13**]  05:22 AM
                             [**2118-7-13**]  06:29 PM
                             [**2118-7-14**]  03:52 AM
   WBC
   0.2
   0.2
   0.3
   0.2
   0.3
   0.4
   Hct
   25.7
   27.1
   25.5
   26.3
   25.7
   24.1
   Plt
   52
   42
   42
   15
   41
   29
   23
   Cr
   0.5
   0.5
   0.5
   0.4
   0.5
   0.4
   0.4
   0.3
   TropT
   0.10
   TCO2
   20
   Glucose
   165
   130
   112
   189
   104
   125
   106
   Other labs: PT / PTT / INR:13.4/30.0/1.1, CK / CKMB /
   Troponin-T:79/5/0.10, Differential-Neuts:35.0 %, Band:0.0 %, Lymph:35.0
   %, Mono:26.0 %, Eos:4.0 %, Lactic Acid:1.5 mmol/L, Ca++:7.6 mg/dL,
   Mg++:1.9 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
 NEUTROPENIA
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 SHOCK, HYPOVOLEMIC OR HEMORRHAGIC
   Remains febrile but trending down.  WBC starting to increase slowly.
   Cellulitis seems to be starting to respond.  Still unclear whether
   cellulitis is due to Pseudomonas or to another organism but nothing to
   aspirate or drain yet. Needs continued close observation as she may
   develop [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 3550**] as counts improve.  HR has come down slightly.  We
   are still holding ASA while plt ct down.  Should have stress this
   admission.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2118-7-11**] 03:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes